US05352655
To 20 ml of tetrahydrofuran were added 0.7 g of 1-[1-methyl-1-(3-chlorophenyl)ethyl]-4-bromomethyl-4-methyl-3-(2-fluorophenyl)pyrrolidine-2-one and 0.35 g of a 28% methanol solution of sodium methoxide, and the solution was then stirred at room temperature for 1 hour. After the solvent was distilled off, ice water was added to the solution, and extraction was then made with ethyl acetate. Next, the resultant extract was dried over anhydrous sodium sulfate, and after concentration, column chromatography was done to obtain 0.5 g of the desired 3-[1-methyl-1-(3-chlorophenyl)ethyl]-5-methyl-1-(2-fluorophenyl)-3-azabicyclo[3.1.0]hexane-2-one.

reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | 1-[1-methyl-1-(3-chlorophenyl)ethyl]-4-bromomethyl-4-methyl-3-(2-fluorophenyl)pyrrolidine-2-one | 0.7 g | CC(C)(C1=CC(=CC=C1)Cl)N1C(C(C(C1)(C)CBr)C1=C(C=CC=C1)F)=O | C21H22BrClFNO
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 3-[1-methyl-1-(3-chlorophenyl)ethyl]-5-methyl-1-(2-fluorophenyl)-3-azabicyclo[3.1.0]hexane-2-one | 0.5 g | CC(C)(C1=CC(=CC=C1)Cl)N1C(C2(CC2(C1)C)C1=C(C=CC=C1)F)=O | C21H21ClFNO
